US07700638B2
5-Cyano-7-iodo-1-phenylbenzimidazole
A suspension of 7-Amino-5-cyano-1-phenylbenzimidazole (12.5 g, 53.4 mmol) in hydrochloric acid (90 ml, 25% w/v) was diazotised with a solution of sodium nitrite (3.7 g, 53.4 mmol) in water (20 ml). The resultant mixture was stirred for 30 min at 0° C. whereafter a solution of potassium iodide (14.2 g, 85.5 mmol) in water (40 ml) was added dropwise. Stirring was continued for 10 min at 0° C., and then the temperature was raised to 80° C. for 30 min. After cooling, aqueous sodium sulphite (1M) was added and the resultant mixture was extracted with dichloromethane. Column chromatographic work-up of the dried and concentrated organic extract afforded the title product (6.5 g, 35%)

reactant | 7-Amino-5-cyano-1-phenylbenzimidazole | 53.4 mmol, 12.5 g | NC1=CC(=CC2=C1N(C=N2)C2=CC=CC=C2)C#N | C14H10N4
reactant | sodium nitrite | 53.4 mmol, 3.7 g | N(=O)[O-].[Na+]
reactant | potassium iodide | 85.5 mmol, 14.2 g | [I-].[K+]
reactant | sodium sulphite | 1M | S(=O)([O-])[O-].[Na+].[Na+]
solvent | hydrochloric acid | 90 ml | Cl | ClH
solvent | water | 20 ml | O | H2O
solvent | water | 40 ml | O | H2O
product | 5-Cyano-7-iodo-1-phenylbenzimidazole | 6.5 g, 35% | C(#N)C1=CC2=C(N(C=N2)C2=CC=CC=C2)C(=C1)I | C14H8IN3
